US09284331B2
Step 2: 5-(1H-imidazol-4-yl)oxazole.
A solution of 5-(1-trityl-1H-imidazol-4-yl)oxazole (14.5 g, 38.4 mmol) was treated with a 90% aq. solution of formic acid (90 mL) and the mixture was stirred at RT for 18 h. The mixture was then diluted with DCM, and washed with H2O and sat. aq. solution of NaHCO3. The combined aqueous layers were washed with DCM and then concentrated in vacuo. The residue obtained was placed in a Soxlet apparatus and continuously extracted with DCM for 12 h. The organic phase was then concentrated and the crude product was crystallized in DCM to give the title compound (2.68 g). UPLC-MS: MS 136.1 (M+H+); UPLC rt 0.25 min.

reactant | 5-(1-trityl-1H-imidazol-4-yl)oxazole | 38.4 mmol, 14.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1=CN=CO1 | C25H19N3O
reactant | formic acid | 90 mL | C(=O)O | CH2O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(1H-imidazol-4-yl)oxazole | 2.68 g | N1C=NC(=C1)C1=CN=CO1 | C6H5N3O
